US04119710
1-(4'-Amino-3'-fluoro-5'-iodo-phenyl)-2-isopropylamino-ethanol,
m.p. of the hydrochloride: 203°-205° C. (decomp.), was prepared from 4'-amino-3'-fluoro-2-isopropylamino-5'-iodo-acetophenone and sodium borohydride analogous to Example 49.

reactant | hydrochloride | Cl | ClH
reactant | 4'-amino-3'-fluoro-2-isopropylamino-5'-iodo-acetophenone | NC1=C(C=C(C=C1I)C(CNC(C)C)=O)F | C11H14FIN2O
reactant | sodium borohydride | [BH4-].[Na+]
product | 1-(4'-Amino-3'-fluoro-5'-iodo-phenyl)-2-isopropylamino-ethanol | NC1=C(C=C(C=C1I)C(CNC(C)C)O)F | C11H16FIN2O
